US07786044B2
33. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-formyl-pyrimidine-4-carboxylic acid methyl ester (Compound 33)
6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-vinyl-pyrimidine-4-carboxylic acid methyl ester (0.500 g, 1.5 mmol) was dissolved in THF (3 mL) and water (3 mL). Osmium tetroxide (4 mg, 0.015 mmol) was added and the reaction mixture was stirred for 2 min. Sodium periodate (0.63 g, 3 mmol) was then added over a period of 2 min. The reaction mixture was stirred for 16 h at ambient temperature then poured into water (150 mL) and extracted with dichloromethane thrice. The combined organic layers were dried, filtered and concentrated to afford the title compound (490 mg, 98% yield) in sufficient purity for subsequent reactions. An analytical sample was obtained by reverse phase chromatography: 1H NMR (CDCl3) δ 10.31 (s, 1H), 8.72 (br s, 1H), 7.77 (dd, 1H), 7.23 (m, 1H), 6.03 (br s, 1H), 4.06 (s, 3H), 4.01 (d, 3H).

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-vinyl-pyrimidine-4-carboxylic acid methyl ester | 1.5 mmol, 0.500 g | COC(=O)C1=NC(=NC(=C1C=C)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H13ClFN3O3
reactant | Sodium periodate | 3 mmol, 0.63 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
catalyst | Osmium tetroxide | 0.015 mmol, 4 mg | [Os](=O)(=O)(=O)=O
solvent | water | 150 mL | O | H2O
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-formyl-pyrimidine-4-carboxylic acid methyl ester | 490 mg, 98% yield | COC(=O)C1=NC(=NC(=C1C=O)N)C1=C(C(=C(C=C1)Cl)OC)F | C14H11ClFN3O4
